US07320972B2
(3R,4S)-4-(5-Bromo-2-thienyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one (90.2 mg, 0.196 mmol) was coupled with 3-hydroxyphenyl boronic acid (32.2 mg, 0.233 mmol) under standard Suzuki conditions illustrated by Example 42. Purification by chromatography (12 g silica gel, 15% to 100% ethyl acetate-hexane) afforded (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[5-(3-hydroxyphenyl)-2-thienyl]-1-phenylazetidin-2-one (77.6 mg, 84% yield) as a clear foam; Rf 0.36 (1:1 ethyl acetate-hexane); 1H NMR (300 MHz, CD3OD) δ 7.31-6.93 (m, 14H), 6.70 (ddd, J=8.0, 2.3, 1.0 Hz, 1H), 4.89-4.88 (m, 1H), 4.64-4.59 (m, 1H), 3.77 (br s, 2H), 3.25-3.21 (m, 1H), 1.97-1.83 (m, 4H) ppm; MS [M−OH]+ 456.0.

reactant | (3R,4S)-4-(5-Bromo-2-thienyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one | 0.196 mmol, 90.2 mg | BrC1=CC=C(S1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@H](O)C1=CC=C(C=C1)F | C22H19BrFNO2S
reactant | 3-hydroxyphenyl boronic acid | 0.233 mmol, 32.2 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[5-(3-hydroxyphenyl)-2-thienyl]-1-phenylazetidin-2-one | 77.6 mg, 84% yield | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C=1SC(=CC1)C1=CC(=CC=C1)O)C1=CC=CC=C1)=O)O | C28H24FNO3S
